US07544688B2
C. 6-Cyclohexylamino-9-cyclopentyl-purine-2-carbonitrile
2-Chloro-6-cyclohexylamino-9-cyclopentyl-purine (6.3 mmol) and sodium cyanide (36 mmol) are heated up in DMF (30 ml) to 160° C. for 70 hours. After cooling down to RT the mixture is poured on water and extracted 3 times with ethyl acetate. The combined organic phases are washed with brine and the extract is dried over sodium sulfate and evaporated. The residue is purified by flash chromatography on silica gel with ethyl acetate as mobile phase. The product containing fractions are combined and evaporated. A pale yellow oil with Rf=0.33 (ethyl acetate) is obtained.

reactant | 2-Chloro-6-cyclohexylamino-9-cyclopentyl-purine | 6.3 mmol | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)NC1CCCCC1 | C16H22ClN5
reactant | sodium cyanide | 36 mmol | [C-]#N.[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 6-Cyclohexylamino-9-cyclopentyl-purine-2-carbonitrile | C1(CCCCC1)NC1=C2N=CN(C2=NC(=N1)C#N)C1CCCC1 | C17H22N6
